US09376422B2
Step 1: 5-bromo-2-methyl-3-nitrobenzoic acid
To a mixture of 2-methyl-3-nitrobenzoic acid (15 g, 82.80 mmol) in conc. H2SO4 (60 mL), 1,3-dibromo-5,5-dimethyl 2,4-imidazolidinedione (13.07 g, 45.71 mmol) was added and reaction mixture was stirred at room temperature for 5 h. Then reaction mixture was slowly poured in to 400 mL of ice cold water. Solid that precipitated out was filtered, washed and dried under vacuum the desired compound (21 g, 98.22%).

reactant | 2-methyl-3-nitrobenzoic acid | 82.80 mmol, 15 g | CC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C8H7NO4
reactant | 1,3-dibromo-5,5-dimethyl 2,4-imidazolidinedione | 45.71 mmol, 13.07 g | BrN1C(N(C(C1(C)C)=O)Br)=O | C5H6Br2N2O2
solvent | H2SO4 | 60 mL | OS(=O)(=O)O | H2O4S
product | 5-bromo-2-methyl-3-nitrobenzoic acid | BrC=1C=C(C(=C(C(=O)O)C1)C)[N+](=O)[O-] | C8H6BrNO4
